US07179823B1
A mixture of [3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-1-(4-phenoxybenzyl)-1H-pyrazol-4-yl]methanol (2.85 g), active manganese dioxide (8.42 g) and tetrahydrofuran (50 ml) was stirred at room temperature overnight. After the manganese dioxide was separated by filtration, the filtrate was concentrated. The residue was subjected to silica gel column chromatography to obtain 3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-1-(4-phenoxybenzyl)-1H-pyrazole-4-carbaldehyde (2.61 g, yield 92%) as colorless crystals from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio). This was recrystallized from ethyl acetate-hexane. Melting point: 129–130° C.

reactant | [3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-1-(4-phenoxybenzyl)-1H-pyrazol-4-yl]methanol | 2.85 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=NN(C=C1CO)CC1=CC=C(C=C1)OC1=CC=CC=C1 | C28H25N3O4
catalyst | manganese dioxide | 8.42 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-1-(4-phenoxybenzyl)-1H-pyrazole-4-carbaldehyde | 2.61 g, yield 92% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=NN(C=C1C=O)CC1=CC=C(C=C1)OC1=CC=CC=C1 | C28H23N3O4
